US07777038B2
Sodium hydride (60% in oil) (0.5 g) was added under ice cooling to a tetrahydrofuran (THF) solution (30 ml) of diethyl malonate (2.2 ml), and stirring was carried out until the generation of hydrogen stopped. 5-(2-iodoethyl)-8-methoxy-1-methyl-2-oxo-1,2-dihydroquinoline (1.54 g) was added, followed by stirring at room temperature overnight. The reaction mixture was added to cold hydrochloric acid, and extraction with dichloromethane was performed. After drying over anhydrous sodium sulfate, the dry product was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (dichloromethane:methanol=50:1→40:1). The purified product was under reduced pressure to thereby obtain 1.73 g (yield: quantitative) of diethyl 2-[2-(8-methoxy-1-methyl-2-oxo-1,2-dihydroquinolin-5-yl)ethyl]malonate as a yellow oil.

reactant | Sodium hydride | 0.5 g | [H-].[Na+]
reactant | diethyl malonate | 2.2 ml | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | hydrogen | [H][H] | H2
reactant | 5-(2-iodoethyl)-8-methoxy-1-methyl-2-oxo-1,2-dihydroquinoline | 1.54 g | ICCC1=C2C=CC(N(C2=C(C=C1)OC)C)=O | C13H14INO2
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | diethyl 2-[2-(8-methoxy-1-methyl-2-oxo-1,2-dihydroquinolin-5-yl)ethyl]malonate | 1.73 g, yield: quantitative | COC=1C=CC(=C2C=CC(N(C12)C)=O)CCC(C(=O)OCC)C(=O)OCC | C20H25NO6
